US03999991
b. Synthesis of 2,5-Dimethoxy-3'-aminobenzhydrol
100 g of 2,5-Dimethoxy-3'-nitrobenzophenone was dissolved in 1.3 liters of ethanol. With the addition of a 10% palladium on carbon catalyst, the solution was charged in an autoclave, and hydrogenated for 8 hours at 130° C with an initial hydrogen pressure of 100 kg/cm2. The filtrate obtained on removal of the catalyst was concentrated to obtain white crystals. Filtration and air drying provided 57 g of the subject compound, which had a melting point of 132° to 134° C.

reactant | 2,5-Dimethoxy-3'-nitrobenzophenone | 100 g | COC1=C(C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=C(C=C1)OC | C15H13NO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1.3 liters | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 2,5-Dimethoxy-3'-aminobenzhydrol | 57 g | COC1=C(C(C2=CC(=CC=C2)N)O)C=C(C=C1)OC | C15H17NO3
